US05296495
To a solution of 2-ethoxycarbonylbenzyltriphenylphosphonium bromide (605 mg) and 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole (285 mg) in acetonitrile (5.00 ml), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.317 ml) was added. The resulting solution was heated under reflux for 10 hours. After concentration under reduced pressure, diisopropyl ether was added to the residue. The resulting insoluble material was removed by filtration. After concentration of filtrate under reduced pressure, n-heptane was added to the residue. The resulting insoluble material removed again by filtration. After concentration of filtrate, the residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate. The fractions containing object compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-[5-{2-(2-ethoxycarbonylphenyl)ethenyl}benzofuran-2-yl]thiazole (280 mg) as a mixture of E and Z isomer as a viscous oil, which was used in the next step without further purification.

reactant | 2-ethoxycarbonylbenzyltriphenylphosphonium bromide | 605 mg | [Br-].C(C)OC(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole | 285 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H15NO2S
solvent | acetonitrile | 5.00 ml | C(C)#N | C2H3N
solvent | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.317 ml | N12CCCCCC2=NCCC1 | C9H16N2
product | 4-tert-butyl-2-[5-{2-(2-ethoxycarbonylphenyl)ethenyl}benzofuran-2-yl]thiazole | 280 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=CC2=C(C=CC=C2)C(=O)OCC | C26H25NO3S
